US07271197B2
The mixture of N-(3-{[2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}phenyl)urea and N-(3-{[2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}phenyl)dicarbonimidic diamide (135 mg) in THF (2 mL) was treated with KOSiMe3 (123 mg) and the resulting solution was heated at 75° C. under nitrogen for 1.5 h. The reaction mixture was then quenched with MeOH and concentrated in vacuo. The residue was taken up in EtOAc, washed with water, dried (MgSO4) and concentrated in vacuo. The residue was purified by HPLC to give N-[3-({2-[4-(2-{[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}ethyl)phenoxy]ethoxy}methyl)phenyl]urea (12 mg). LCMS RT=2.47 min and N-[3-([2-[4-(2-{[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}ethyl)phenoxy]ethoxy}methyl)phenyl]dicarbonimidic diamide (6 mg). LCMS RT=2.58 min.

reactant | N-(3-{[2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}phenyl)urea | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(OCCOCC=1C=C(C=CC1)NC(=O)N)C=C2)C | C31H35N3O7
reactant | N-(3-{[2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}phenyl)dicarbonimidic diamide | 135 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(OCCOCC=1C=C(C=CC1)NC(OC(N)=N)=N)C=C2)C | C32H37N5O7
reactant | KOSiMe3 | 123 mg | O([K])[Si](C)(C)C
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-[3-({2-[4-(2-{[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}ethyl)phenoxy]ethoxy}methyl)phenyl]urea | 12 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNCCC2=CC=C(OCCOCC=1C=C(C=CC1)NC(=O)N)C=C2)O)C | C30H37N3O6
